US07105671B2
A solution of 1-{2-(3,4-dichloro-phenyl)-3-[2-(tetrahydro-pyran-2-yloxy)-cyclopentyl]-propionyl}-3-methyl-urea (45 mg, 0.10 mmol) in ethanol (1.01 mL) was treated with pyridinium p-toluenesulfonate (2.5 mg, 0.01 mmol). The reaction mixture was heated to 55° C. for 5 h. At this time, the reaction was concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 100% ethyl acetate) afforded the 1-[2-(3,4-dichloro-phenyl)-3-(2-hydroxy-cyclopentyl)-propionyl]-3-methyl-urea (30.4 mg, 83.4%) as a white solid: mp 62–64° C.; FAB-HRMS m/e calcd for C16H20Cl2N2O3 (M+H)+ 359.0929, found 359.0929.

reactant | 1-{2-(3,4-dichloro-phenyl)-3-[2-(tetrahydro-pyran-2-yloxy)-cyclopentyl]-propionyl}-3-methyl-urea | 0.10 mmol, 45 mg | ClC=1C=C(C=CC1Cl)C(C(=O)NC(=O)NC)CC1C(CCC1)OC1OCCCC1 | C21H28Cl2N2O4
reactant | pyridinium p-toluenesulfonate | 0.01 mmol, 2.5 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | ethanol | 1.01 mL | C(C)O | C2H6O
product | 1-[2-(3,4-dichloro-phenyl)-3-(2-hydroxy-cyclopentyl)-propionyl]-3-methyl-urea | 30.4 mg, 83.4% | ClC=1C=C(C=CC1Cl)C(C(=O)NC(=O)NC)CC1C(CCC1)O | C16H20Cl2N2O3
